Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left hip pain
 
Major Surgical or Invasive Procedure:
___: Open reduction, internal fixation right 
periprosthetic femoral shaft fracture with cerclage wires and 
lateral locking plate

 
History of Present Illness:
___ male with previous right hip hemiarthroplasty
presenting today after a fall. The patient was sent from an
outside hospital. The patient had a mechanical fall while trying
to get out of his recliner today landing on the right side.
Patient was not ambulatory at that time. The patient is
expressing right hip pain. At the outside hospital the patient
had an x-ray of the right hip demonstrating a proximal femur
fracture around the site of the hemiarthroplasty. No other signs
of injury was noted.

 
Past Medical History:
a-fib
epilepsy - focal seizures (last episode 3 mo) 
HTN  
shingles 
CHF - unknown  - takes furosemide once in AM
no diabetes 
 
Social History:
___
Family History:
NC
 
Physical Exam:
A&O x 3 
Calm and comfortable 
Chest: no chest wall tenderness
Abd: soft, non-tender
  
BUE skin clean and intact 
Arms and forearm compartments soft 
2+ radial pulses 
  
BLE skin clean and intact 
Right leg incision clean/dry/intact
Thighs and leg compartments soft 
Saphenous, Sural, Deep peroneal, Superficial peroneal SILT 
___ FHS ___ TA Peroneals Fire 
1+ ___ and DP pulses 

 
Pertinent Results:
___ 06:10AM BLOOD WBC-6.9 RBC-2.97* Hgb-9.5* Hct-27.6* 
MCV-93 MCH-32.0 MCHC-34.5 RDW-15.0 Plt ___
___ 06:10AM BLOOD Glucose-93 UreaN-31* Creat-1.0 Na-133 
K-4.6 Cl-100 HCO3-25 AnGap-13
___ 06:10AM BLOOD Calcium-7.9* Phos-3.4 Mg-1.9
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a right hip periprosthetic femur fracture and was 
admitted to the orthopedic surgery service. The patient was seen 
by Medicine preoperatively for assessment. Given that he was 
asymptomatic, without angina, shortness of breath and physical 
exam findings of volume overload, they felt it was unlikely that 
obtaining further cardiac testing would change management and 
recommended proceeding with surgery. 

The patient was taken to the operating room on ___ for 
ORIF right hip periprosthetic femur fracture which the patient 
tolerated well (for full details please see the separately 
dictated operative report). The patient was taken from the OR to 
the PACU in stable condition and after recovery from anesthesia 
was transferred to the floor. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications by POD#1. Speech and swallow was consulted 
given a history of aspiration and recommended ground solids with 
nectar thick liquids for his diet. 

The patient was given perioperative antibiotics and Lovenox 
anticoagulation per routine. The patient was transfused 4u PRBCs 
for acute blood loss anemia and Hct was 27.6 on the day of 
discharge - it should be checked for two more days and 
transfused for Hct <26.0. The patients home medications were 
continued throughout this hospitalization. The patient worked 
with ___ who determined that discharge to rehab was appropriate. 
The ___ hospital course was otherwise unremarkable.

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient had a Foley catheter in place 
which should be removed at rehab. The patient is touch down 
weight bearing in the right lower extremity, and will be 
discharged on Lovenox for DVT prophylaxis. The patient will 
follow up in two weeks per routine. A thorough discussion was 
had with the patient regarding the diagnosis and expected 
post-discharge course, and all questions were answered prior to 
discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Gabapentin 100 mg PO TID 
4. LeVETiracetam 500 mg PO TID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Gabapentin 100 mg PO TID 
4. LeVETiracetam 500 mg PO TID 
5. Acetaminophen 650 mg PO Q6H 
6. Calcium Carbonate 500 mg PO TID 
7. Vitamin D 400 UNIT PO DAILY 
8. traZODONE 50 mg PO QHS:PRN Insomnia 
9. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
10. Multivitamins 1 CAP PO DAILY 
11. Enoxaparin Sodium 40 mg SC DAILY Duration: 14 Days 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC once a day Disp #*14 
Syringe Refills:*0
12. Docusate Sodium 100 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right periprosthetic femoral shaft fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox 40mg daily for 2 weeks

WOUND CARE:
- You can get the wound wet/take a shower starting 3 days after 
your surgery.  You may wash gently with soap and water, and pat 
the incision dry after showering.  
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Daily dry gauze dressing changes.
- No dressing is needed if wound continues to be non-draining.

ACTIVITY AND WEIGHT BEARING:
- Touch down weight bearing right lower extremity
Physical Therapy:
Activity:   Activity:  Activity as tolerated
 Right lower extremity:  Touchdown weight bearing
Encourage turn, cough and deep breathe q2h when awake

Treatments Frequency:
WOUND CARE:
- You can get the wound wet/take a shower starting 3 days after 
your surgery.  You may wash gently with soap and water, and pat 
the incision dry after showering.  
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Daily dry sterile gauze dressing changes
- No dressing is needed if wound continues to be non-draining.

TUBES/DRAINS:
- Please d/c Foley on ___ or ___

LAB WORK:
___
Followup Instructions:
___